US09228219B2
Chemical Synthesis of Dipeptide Ser-Trp
In a second step, enzymatic hydrolysis of Z-Ser-Trp-OMe was accomplished using Alcalase 2.5L DX (Int. J. Peptide Protein Res. 1990, 52) and subsequent catalytic hydrogenolysis provided the desired peptide as an off-white solid. To that end the purified Z-Ser-Trp-OMe was dissolved in tBuOH and water and Alcalase 2.5 L DX (Novozymes, Bagsvaerd, Denmark) was added. The mixture was stirred until (almost) all starting material was consumed. The mixture was then concentrated in vacuo and the residue taken up in water of pH 7. The aqueous mixture was extracted with ethyl acetate to remove any remaining starting material and subsequently the aqueous phase was acidified. The desired product, i.e. Z-Ser-Trp-OH, was isolated by extraction with ethyl acetate; the extract was dried over sodium sulphate and concentrated in vacuo.

reactant | Z-Ser-Trp-OMe | N([C@@H](CO)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C23H25N3O6
reactant | water | O | H2O
solvent | tBuOH | CC(C)(C)O | C4H10O
product | Z-Ser-Trp-OH | N([C@@H](CO)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H23N3O6
